US06482829B2
Rac-8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(2,2-difluoro-ethyl)-2-methyl-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, MS: m/e=564.2 (M+H+), was prepared in accordance with the general method of example 99 from (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-2-methyl-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-4-one and 2,2-difluoroethyl bromide.

reactant | (rac)-8-(3,5-bis-trifluoromethyl-benzoyl)-2-methyl-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(NC(N3C3=C(C=CC=C3)C)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C24H23F6N3O2
reactant | 2,2-difluoroethyl bromide | FC(CBr)F | C2H3BrF2
product | Rac-8-(3,5-Bis-trifluoromethyl-benzoyl)-3-(2,2-difluoro-ethyl)-2-methyl-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(N(C(N3C3=C(C=CC=C3)C)C)CC(F)F)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C26H25F8N3O2
